US07834009B2
A solution of 2-formyl-2,5-dimethyl-hexanoic acid ethyl ester (126 mg, 0.629 mmol) in ethanol (3 mL) was treated with 4-fluorobenzylamine (87 mg, 0.692 mmol) and stirred at 60° C. for 18 h. The reaction mixture was allowed to cool to 25° C. and treated with glacial acetic acid (0.036 mL, 0.629 mmol) followed by sodium cyanoborohydride (48 mg, 1.26 mmol). The reaction was stirred for 1 h at 25° C., quenched with a 1.0 M aqueous sodium hydroxide solution (2 mL), extracted with ethyl acetate (2×100 mL), washed with brine (100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. The crude oil was purified by flash column chromatography (ISCO RediSep column, 0 to 40% ethyl acetate in hexanes) to give 2-[(4-fluoro-benzylamino)-methyl]-2,5-dimethyl-hexanoic acid ethyl ester (96 mg, 49%) as a clear oil. 1H NMR (400 MHz, CDCl3) δ: 0.87 (d, 6H, J=6.0 Hz), 1.00-1.14 (m, 2H), 1.17 (s, 3H), 1.24 (t, 3H, J=7.0 Hz), 1.40-1.49 (m, 3H), 1.60 (sextet, 1H, J=6.1 Hz), 2.65 (dd, 2H, J1=108.4 Hz, J2=11.7, Hz), 3.74 (s, 2H), 4.12 (q, 2H, J=7.1 Hz), 6.98 (t, 2H, J=8.6 Hz), 7.26 (q, 2H, J=4.7 Hz). LC-MS (ESI) calculated for C18H28FNO2: 309.4, found 310.3 [M+H+].

reactant | 2-formyl-2,5-dimethyl-hexanoic acid ethyl ester | 0.629 mmol, 126 mg | C(C)OC(C(CCC(C)C)(C)C=O)=O | C11H20O3
reactant | 4-fluorobenzylamine | 0.692 mmol, 87 mg | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | acetic acid | 0.629 mmol, 0.036 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1.26 mmol, 48 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-[(4-fluoro-benzylamino)-methyl]-2,5-dimethyl-hexanoic acid ethyl ester | 96 mg, 49% | C(C)OC(C(CCC(C)C)(C)CNCC1=CC=C(C=C1)F)=O | C18H28FNO2
